*Complex PhotoVoltaic panel library 06.2022 Fesz
*https://www.youtube.com/watch?app=desktop&v=ox0UtYe4owI&feature=youtu.be
*
.subckt SEP300W 1 2 3 ; http://sunceco.com/wp-content/uploads/2017/01/SEP300-320.pdf
xu1 1 2 3 pv voc=44.71 isc=8.947 vmp=37.23 imp=8.06 tk_voc=-0.0034 tk_isc=0.0005
.ends
.subckt CL_SM10P 1 2 3; https://www.tme.eu/Document/f73597b9cc5801bdd87f2781fa4ee352/CL-SM10P.pdf
xu 1 2 3 pv voc=22.6 isc=0.59 vmp=18.2 imp=0.55 tk_voc=-0.004 tk_isc=0.00065
.ends
.subckt MP3_25 1 2 3 ; https://ro.mouser.com/datasheet/2/1009/Electronic_Component_Spec_Sheet_Cla_77DEA84523C82-1658524.pdf
xu 1 2 3 pv voc=4.1 isc=0.035 vmp=3 imp=0.007 tk_voc=-0.004 tk_isc=0.00065
.ends
*
*PhotoVoltaic Cell model
*
* necessary parameters
*voc - open circuit voltage
*isc - short circuit current
*vmp - maximum power voltage
*imp maximum power current
*tk_voc - open circuit voltage temperature coeffiecient
*tk_isc - short circuit current temperature coefficient
*
.subckt pv v+ v- illu 
D1 N002 v- pvdiode2
Rsh N002 v- R=rsh_t
Rs N002 v+ R=rs_t
Bph v- N002 I=ipv_t*v(illu)/1000
R5 illu 0 100meg
.param voc_t voc*(1-tk_voc*(25-temp))
.param isc_t isc*(1-tk_isc*(25-temp))
.param vmp_t vmp*(1-tk_voc*(25-temp))
.param imp_t imp*(1-tk_isc*(25-temp))
.param rs_t (voc_t-vmp_t)/(16*imp_t) ; 2 instead of 16 in original source
.param rsh_t 5*vmp_t/(isc_t-imp_t) ; 1 instead of 5 in original source
.model PVDiode2 D(Is=io_t N=a_n Tnom=temp)
.param io_t ((rs_t+rsh_t)*isc_t-voc_t)/(rsh_t*exp(voc_t/(a_n*vt_t)))
.param vt_t (1.38e-23*(273+temp))/1.6e-19
.param ipv_t isc_t*(rsh_t+rs_t)/rsh_t
.param a_n 1.3*voc/0.7
*
.ends
